US07196090B2
1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-[2-(2-hydroxy-ethoxy)-ethylamino]-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as in Example 2 using 0.350 g (0.887 mmol) 1-ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.267 mL (2.66 mmol) 2-(2-amino-ethoxy)-ethanol. The final product was purified by column chromatography (20:1 dichloromethane/methanol). This gave 0.331 g (86%) of 1-ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-[2-(2-hydroxy-ethoxy)-ethylamino]-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid: mp 143° C.–146° C.; MS (APCI) m+1/z 436.

reactant | 1-ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.887 mmol, 0.350 g | C(C)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2)OC)OC)F)=O | C17H19FN4O4S
reactant | 2-(2-amino-ethoxy)-ethanol | 2.66 mmol, 0.267 mL | NCCOCCO | C4H11NO2
product | 1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-[2-(2-hydroxy-ethoxy)-ethylamino]-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | C(C)N1C(N(CC=2C1=NC(=NC2)NCCOCCO)C2=C(C(=CC(=C2)OC)OC)F)=O | C20H26FN5O5
